US05665575
For the preparative resolution, racemic 1-phenylethyl acetate (50 mmol/l) in 10 mmol/l phosphate buffer pH 7.0 is incubated at 30° C. with the esterase according to the invention (1 unit esterase per 1 mmol ester) that was isolated according to example 1. The pH value is kept constant during the reaction by means of an automatic burette which titrates 0.1 mol/l NaOH. The reaction course is monitored by the consumption of sodium hydroxide. The enantiomeric excess of the product 1-phenylethanol as well as of the substrate 1-phenylethyl acetate is determined by HPLC on a chiral column (Chiracel OJ, Daicel Company). Once a 50% conversion is achieved, the enantiomeric excess of the retained substrate (R)-1-phenylethyl acetate is 96% and that of the product (S)-1-phenylethanol is 94% (enantioselectivity E>100). The reaction is terminated by extracting several fold with ethyl acetate. The organic phases are pooled and concentrated by evaporating the solvent. The (S)-1-phenylethanol obtained is separated from non-converted (R)-1-phenylethyl acetate by chromatography on silica gel.

reactant | racemic 1-phenylethyl acetate | 50 mmol/l | C(C)(=O)OC(C)C1=CC=CC=C1 | C10H12O2
reactant | NaOH | 0.1 mol/l | [OH-].[Na+]
solvent | phosphate | 10 mmol/l, pH 7.0 | P(=O)([O-])([O-])[O-]
product | (S)-1-phenylethanol | C1(=CC=CC=C1)[C@H](C)O | C8H10O
